US04997847
8-(3,4-Dichlorobenzenesulphonamido)octanoic Acid
8-Aminooctanoic acid (1.0 g, 0.006 mol) was treated with 3,4-dichlorobenzenesulphonylchloride (1.54 g, 0.006 mol), according to the method described in Example 4, to give the title compound which was recrystallised from 2-propanol/water (1.2 g, m.p. 115°-6° C.).

reactant | 8-Aminooctanoic acid | 0.006 mol, 1.0 g | NCCCCCCCC(=O)O | C8H17NO2
reactant | 3,4-dichlorobenzenesulphonylchloride | 0.006 mol, 1.54 g | ClC=1C=C(C=CC1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
product | 8-(3,4-Dichlorobenzenesulphonamido)octanoic Acid | ClC=1C=C(C=CC1Cl)S(=O)(=O)NCCCCCCCC(=O)O | C14H19Cl2NO4S
